data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2810,3124,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28]([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)=[N+:35]([CH3:36])[N-:37][C:38]([CH3:39])=[O:40]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([O:25][CH3:24])=[O:27])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:35]([CH3:36])[N:37]2[C:38]([CH3:39])=[O:40],water,298.15,17.335637643363455,-29.43954255269567
4182,4785,[CH3:9][NH:10][C:11](=[O:12])[c:13]1[nH+:14][c-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20](=[O:21])[o:22]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]2([C:16](=[O:17])[NH:18][CH3:19])[NH:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[O:22][C:20]2=[O:21],water,298.15,23.45082809113604,-3.171917665792768
1699,1879,[Br:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2.[CH3:9][C:10](=[O:11])[C:12](=[NH+:13][C-:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25]>>[Br:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:14]([C:15]#[N:16])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:13][C:12]2([C:10]([CH3:9])=[O:11])[C:23]([CH3:24])=[O:25],water,298.15,26.659844738868696,-12.537098662008338
1985,2205,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][C:24]([C:25]#[N:26])=[NH+:27][N-:28][C:29]#[N:30]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[N:28]([C:29]#[N:30])[NH:27][C:24]2([CH3:23])[C:25]#[N:26],water,298.15,23.418410133264693,-25.58220142527195
37,44,[CH3:9][CH:10]=[O+:11][CH-:12][C:13]([CH3:14])=[O:15].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[CH:10]([CH3:9])[O:11][CH:12]2[C:13]([CH3:14])=[O:15],water,298.15,8.471905603499259,-66.58598221724517
3990,4565,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[NH-:21]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[NH:21][N:19]([CH3:20])[C:12]2([CH3:11])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,23.09512685746109,-16.478613349197257
5122,5815,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][C-:23]([C:24]#[N:25])[C:26](=[O:27])[NH:28][CH3:29]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:23]([C:24]#[N:25])([C:26](=[O:27])[NH:28][CH3:29])[NH:22][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,26.77849972603657,-2.86591383476224
3779,4329,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[NH+:17]=[C:18]([CH3:19])[CH3:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([C:15]#[N:16])[NH:17][C:18]2([CH3:19])[CH3:20],water,298.15,41.83181076755758,11.301486475203191
2737,3042,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([Cl:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[c-:28]1[c:29](=[O:30])[o:31][c:32]([C:33]([CH3:34])=[O:35])[n+:36]1[CH3:37]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([Cl:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:32]1([C:33]([CH3:34])=[O:35])[O:31][C:29](=[O:30])[C:28]2([C:26]([O:25][CH3:24])=[O:27])[N:36]1[CH3:37],water,298.15,24.92415625075076,-6.200448667951663
3349,3800,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10]#[N:11])[O+:12]=[CH:13][C:14](=[O:15])[O:16][CH3:17]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10]#[N:11])[O:12][CH:13]1[C:14](=[O:15])[O:16][CH3:17],water,298.15,4.458752782913233,-52.781390993582754
2278,2525,[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[O:8][CH3:9])=[C:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:23][O:24][C:25](=[O:26])[C-:27]([CH3:28])[N+:29]([CH3:30])=[CH:31][C:32]#[N:33]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[C:27]([C:25]([O:24][CH3:23])=[O:26])([CH3:28])[N:29]([CH3:30])[CH:31]1[C:32]#[N:33],water,298.15,33.06813665245602,0.0868604388127139
